datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[C:11]([C:10]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:4])[H:5],40.9614
[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[C:15]([O:16])([H:17])([H:18])[H:19]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[H:12][O:16][C:15]([H:17])([H:18])[H:19],27.020272
[C:0](=[C:1]([N:2]([H:6])[H:7])[H:5])([H:3])[H:4].[N:8]([H:9])[H:10]>>[C:0](=[C:1]([N:2]([H:6])[H:7])[H:5])[H:4].[H:3][N:8]([H:9])[H:10],42.986416
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[C:15]([O:16][O:17])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[H:7][O:17][O:16][C:15]([H:18])([H:19])[H:20],58.19944
[C:0](=[C:1]([C:2]#[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7].[C:12]([C:13]([H:16])([H:17])[H:18])([H:14])[H:15]>>[C:0](=[C:1]([C:2](=[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[C:12]([C:13]([H:16])([H:17])[H:18])([H:14])[H:15])[H:8])([H:6])[H:7],21.966
[C:0](=[S:1])([H:2])[H:3].[C:4](=[C:5]([H:7])[H:8])[H:6]>>[C:0](=[S:1])[H:3].[H:2][C:4](=[C:5]([H:7])[H:8])[H:6],-3.3472
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[O:22][O:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9].[H:7][O:22][O:23],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8].[O:18][O:19]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])([H:11])[H:12])([H:9])[H:10])([H:7])([H:8])[O:18][O:19],0.8313608
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7](=[C:8]([C:9]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:12])[H:4].[C:7](=[C:8][C:9]([H:13])([H:14])[H:15])([H:10])[H:11],112.801
[O:0][C:1](=[O:2])[H:3].[O:4][O:5][H:6]>>[O:0]([C:1](=[O:2])[H:3])[H:6].[O:4][O:5],-13.7026
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([O:10][O:11])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][O:11][O:10][C:9]([C:8]([H:12])([H:13])[H:14])([H:15])[H:16],71.9648
[C:0]([C:1]([N:2]([H:7])[H:8])[H:6])([H:3])([H:4])[H:5].[O:9][O:10]>>[C:0](=[C:1]([N:2]([H:7])[H:8])[H:6])([H:4])[H:5].[H:3][O:9][O:10],10.476736
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](#[C:15][C:16]([C:17]([H:20])([H:21])[H:22])[H:19])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:16]([C:15]#[C:14][H:18])([C:17]([H:20])([H:21])[H:22])[H:19])[H:7])[H:6],33.5975
[C:0]([C:1](=[O:2])[O:3][O:4])([H:5])([H:6])[H:7]>>[C:0]([C:1](=[O:2])[O:3][O:4][H:5])([H:6])[H:7],97.0688
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[C:14]([C:13]([H:17])([H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:5])[H:6],11.1294
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([C:14](=[S:15])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:19])[H:5].[C:12]([C:13]([C:14](=[S:15])[H:21])[H:20])([H:16])([H:17])[H:18],45.1035
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])[C:6]([C:7]([C:8]([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])([H:18])[H:19])([H:16])[H:17])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])[C:6]([H:16])([H:17])[C:7]([H:18])([H:19])[C:8]1([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])[H:11],85.6465
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[C:15]([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:12][C:15]([H:16])([H:17])[H:18],29.932336
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:13])([H:14])[H:15])([H:12])[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19])[H:8])([H:6])[H:7],12.5938
